* AD826A SPICE Macro-model              Rev. A, 11/92
*                                       ARG / ADI
*
* This version of the AD826 model simulates the worst-case 
* parameters of the 'A' grade.  The worst-case parameters
* used correspond to those in the data sheet.
*
*
* Copyright 1993 by Analog Devices
*
* Refer to "README.DOC" file for License Statement.  Use of
* this model indicates your acceptance of the terms and pro-
* visions in the License Statement.
*
* Node assignments
*                non-inverting input
*                |   inverting input
*                |   |   positive supply
*                |   |   |   negative supply
*                |   |   |   |   output
*                |   |   |   |   |
.SUBCKT AD826A   2   1   99  50  46
*
* INPUT STAGE AND POLE AT 160MHZ
*
I1   8    50   1E-3
Q1   4    1    6    QN
Q2   5    3    7    QN
CD   1    2    1.5E-12
CC1  1    0    2.4E-12
CC2  2    0    2.4E-12
R1   99   4    955
R2   99   5    955
C1   4    5    .521E-12
R3   6    8    903
R4   7    8    903
IOS  1    2   150E-9
EOS  3    2    POLY(1) (15,39) 2E-3 5
*
* GAIN STAGE AND DOMINANT POLE AT 12.5KHZ
*
EREF 98   0    39 0 1
G1   98   9    4 5 1.047E-3
R5   9    98   3.820E6
C2   9    98   3.333E-12
D1   9    10   DX
D2   11   9    DX
V1   99   10   2.25
V2   11   50   2.25
*
* COMMON MODE STAGE WITH ZERO AT 15.811KHZ
*
ECM  14   98   POLY(2) (1,39) (2,39) 0 0.5 0.5
R7   14   15   1E6
C4   14   15   10.066E-12
R8   15   98   10
*
*POLE AT 120MHZ
*
GP2  98   31   9 39 1E-6
RP2  31   98   1E6
CP2  31   98   1.326E-15
*
*ZERO AT 75MHZ
*
EZ1  32   98   31 39 1E6
RZ1  32   33   1E6   
RZ2  33   98   1
CZ1  32   33   2.12E-15
*
*ZERO AT 100MHZ
*
EZ2  34   98   33 39 1E6
RZ3  34   35   1E6
RZ4  35   98   1
CZ2  34   35   1.59E-15
*
*POLE AT 160MHZ
*
GP3  98   36   35 39 1E-6
RP3  36   98   1E6
CP3  36   98   .995E-15
*
*POLE AT 160MHZ
*
GP10 98   40   36 39 1E-6
RP10 40   98   1E6
CP10 40   98   .995E-15
*
* OUTPUT STAGE
*
RS1  99   39   20.548E3
RS2  39   50   20.548E3
RO1  99   45   16
RO2  45   50   16
G7   45   99   99 40 62.5E-3
G8   50   45   40 50 62.5E-3
G9   98   60   45 40 62.5E-3
D7   60   61   DX
D8   62   60   DX
V7   61   98   DC 0
V8   98   62   DC 0
FSY  99   50   POLY(2) V7 V8 5.77E-3 1 1
D9   41   45   DX
D10  45   42   DX
V5   40   41   0.4
V6   42   40   0.4
LO   45   46   .06E-9
*
* MODELS USED
*
.MODEL DX D(IS=1E-12)
.MODEL QN NPN(BF=74.76)
.ENDS AD826A