***** AD8004 SPICE model       Rev B SMR/ADI 8-18-97

* Copyright 1997 by Analog Devices, Inc.

* Refer to "README.DOC" file for License Statement.  Use of this model
* indicates your acceptance with the terms and provisions in the License
* Statement.

* rev B was developed to add the correct noise characteristics, and
* to create an improved solution for slew rate.

* This model will give typical performance characteristics
* for the following parameters;

*     closed loop gain and phase vs bandwidth
*     output current and voltage limiting
*     offset voltage (is static, will not vary with vcm)
*     ibias (again, is static, will not vary with vcm)
*     slew rate and step response performance
*     (slew rate is based on 10-90% of step response)
*     current on output will be reflected to the supplies 
*     vnoise, referred to the input
*     inoise, referred to the input

*     distortion is not characterized

* Node assignments
*                non-inverting input
*                |   inverting input
*                |   |   positive supply
*                |   |   |   negative supply
*                |   |   |   |   output
*                |   |   |   |   |
.SUBCKT AD8004an 1   2   99  50  28

* input stage *

q1 50 3 5 qp1
q2 99 5 4 qn1
q3 99 3 6 qn1
q4 50 6 4 qp1
i1 99 5 2.6e-4
i2 6 50 2.6e-4
cin1 1 98 1.5e-12
cin2 2 98 1.5e-12
v1 4 2 0

* input error sources *

eos 3 1 poly(1) 20 98 1e-3 1
fbn 2 98 poly(1) vnoise3 35e-6 1e-3
fbp 1 98 poly(1) vnoise3 40e-6 1e-3

* gain stage *

f1 98 7 poly(1) v1 0 1 0 1500
rgain 7 98 2.9e5
cgain 7 98 2e-12
dcl1 7 8 d1
dcl2 9 7 d1
vcl1 99 8 1.75
vcl2 9 50 1.75

* second pole *

epole 14 98 7 98 1
rpole 14 15 1
cpole 15 98 0.6e-9

* reference stage *

eref 98 0 poly(2) 99 0 50 0 0 0.5 0.5 

ecmref 30 0 poly(2) 1 0 2 0 0 0.5 0.5

* vnoise stage *

rnoise1 19 98 7.35e-3
vnoise1 19 98 0
vnoise2 21 98 0.4
dnoise1 21 19 dn

fnoise1 20 98 vnoise1 1
rnoise2 20 98 1

* inoise stage *

rnoise3 22 98 11.5e-6
vnoise3 22 98 0
vnoise4 24 98 0.585
dnoise2 24 22 dn

fnoise2 23 98 vnoise3 1
rnoise4 23 98 1

* buffer stage *

gbuf 98 13 15 98 1e-2
rbuf 98 13 1e2

* output current reflected to supplies *

fcurr 98 40 voc 1
vcur1 26 98 0
vcur2 98 27 0
dcur1 40 26 d1
dcur2 27 40 d1

* output stage *

vo1 99 90 0
vo2 91 50 0
fout1 0 99 poly(2) vo1 vcur1 -13.27e-3 1 -1 
fout2 50 0 poly(2) vo2 vcur2 -13.27e-3 1 -1
gout1 90 10 13 99 0.5
gout2 91 10 13 50 0.5
rout1 10 90 2
rout2 10 91 2
voc 10 28 0
rout3 28 98 1e6
dcl3 13 11 d1
dcl4 12 13 d1
vcl3 11 10 -0.69
vcl4 10 12 -0.69

.model qp1 pnp()
.model qn1 npn()
.model d1  d()
.model dn  d(af=1 kf=1e-8)
.ends
